US07632861B2
3-((3,5-Bis(trifluoromethyl)benzyloxy)methyl)-3-vinyl-1,3-dihydroisobenzofuran-1-ol.
To a solution of 2-(2-(1,3-dioxan-2-yl)phenyl)-1-(3,5-bis(trifluoromethyl)benzyloxy)but-3-en-2-ol (800 mg, 1.68 mmol) in acetone (20 mL) and water (1 mL) was added concentrated hydrochloric acid (0.2 mL) at room temperature. The resulting reaction was stirred at room temperature for 2 h. The reaction was quenched by addition of saturated sodium bicarbonate, and concentrated to remove most of the acetone. The mixture was poured into diethyl ether, washed with water, then brine, dried over magnesium sulfate, and concentrated. Column chromatography (25%-->50% EtOAc/Hex) gave 475 mg (68%) as a colorless oil. Mass spec.: 401.32 (M-OH)+.

reactant | 2-(2-(1,3-dioxan-2-yl)phenyl)-1-(3,5-bis(trifluoromethyl)benzyloxy)but-3-en-2-ol | 1.68 mmol, 800 mg | O1C(OCCC1)C1=C(C=CC=C1)C(COCC1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)(C=C)O | C23H22F6O4
reactant | hydrochloric acid | 0.2 mL | Cl | ClH
solvent | acetone | 20 mL | CC(=O)C | C3H6O
solvent | water | 1 mL | O | H2O
product | 3-((3,5-Bis(trifluoromethyl)benzyloxy)methyl)-3-vinyl-1,3-dihydroisobenzofuran-1-ol | FC(C=1C=C(COCC2(OC(C3=CC=CC=C23)O)C=C)C=C(C1)C(F)(F)F)(F)F | C20H16F6O3
